US08466186B2
(e) (R)-1-(4,5-Diamino-2-chloro-phenyl)-2-hydroxymethyl-pyrrolidine
The sub-title compound was prepared from (R)-1-(5-amino-2-chloro-4-nitro-phenyl)-2-hydroxymethyl-pyrrolidine (220 mg, 0.8 mmol) and Pt/C (50 mg) in MeOH (6 mL) and THF (6 mL) in analogy to example 1 step (f).

reactant | (R)-1-(5-amino-2-chloro-4-nitro-phenyl)-2-hydroxymethyl-pyrrolidine | 0.8 mmol, 220 mg | NC=1C(=CC(=C(C1)N1[C@H](CCC1)CO)Cl)[N+](=O)[O-] | C11H14ClN3O3
solvent | MeOH | 6 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Pt/C | 50 mg | [Pt] | Pt
product | (R)-1-(4,5-Diamino-2-chloro-phenyl)-2-hydroxymethyl-pyrrolidine | NC1=CC(=C(C=C1N)N1[C@H](CCC1)CO)Cl | C11H16ClN3O
